US04795814
To a tetrahydrohydrofuran solution containing 27.5 g of ethyl 3-methyl-p-(2-tetrahydropyranyloxy)cinnamate was added dropwise 118 ml of diisobutyl aluminium hydride (25% by weight/volume) at a room temperature. 2 Hours after the dropwise addition, the reaction mixture was poured into an ice-cooled ammonium chloride aqueous solutoin, and the insoluble matters were removed by filtration. The filtrate was washed with water then dried with anhydrous sodium sulfate and concentrated. The residue thus obtained was purified by means of silica gel column chromatography to yield 12.7 g of 3-methyl-p-(2-tetrahydropyranyloxy)cinnamyl alcohol in the form of colorless oily substance.

reactant | ethyl 3-methyl-p-(2-tetrahydropyranyloxy)cinnamate | 27.5 g | CC=1C=C(C=CC(=O)OCC)C=CC1OC1OCCCC1 | C17H22O4
reactant | diisobutyl aluminium hydride | 118 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
product | 3-methyl-p-(2-tetrahydropyranyloxy)cinnamyl alcohol | 12.7 g | CC=1C=C(C=CCO)C=CC1OC1OCCCC1 | C15H20O3
